US05143912
A mixture of 333 mg of 9-chloro-1,2-dihydro-4-hydroxy-1-methyl-2-oxo-3-phenyl-6H-pyrimido[2,1-a]isoindol-5-ium hydroxide (internal salt) and 41 ml of toluene was treated with 0.86 g of methyl propiolate and heated to boiling under reflux for about 6.5 days, and 0.86 ml of methyl propiolate was added thereto every 24 hours. The reaction mixture was then cooled in an ice bath and the separated crystals were filtered off under suction. After recrystallization from N,N-dimethylformamide there was obtained 165 mg of methyl 9-chloro-4,6-dihydro-4-oxo-3-phenylpyrido[2,1-a]isoindole-1-carboxylate as yellowish crystals with a m.p. of 269°-273°.

reactant | 9-chloro-1,2-dihydro-4-hydroxy-1-methyl-2-oxo-3-phenyl-6H-pyrimido[2,1-a]isoindol-5-ium hydroxide | 333 mg | [OH-].ClC1=CC=C2C[N+]3=C(C2=C1)N(C(C(=C3O)C3=CC=CC=C3)=O)C
reactant | methyl propiolate | 0.86 g | C(C#C)(=O)OC | C4H4O2
reactant | methyl propiolate | 0.86 ml | C(C#C)(=O)OC | C4H4O2
solvent | toluene | 41 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 9-chloro-4,6-dihydro-4-oxo-3-phenylpyrido[2,1-a]isoindole-1-carboxylate | 165 mg | ClC1=CC=C2CN3C(C2=C1)=C(C=C(C3=O)C3=CC=CC=C3)C(=O)OC | C20H14ClNO3
